US06107495
Methyl 5-Oxooctanoate
2.82 g of magnesium is introduced into a 250 ml reaction vessel under a nitrogen atmosphere. It is covered with THF and 1 ml of 1-bromopropane is poured in. When the reaction starts, a solution of 9.9 ml of 1-bromopropane in 150 ml of THF is added dropwise over 1.5 hours. Once addition is complete, agitation is carried out for 10 minutes, then the reaction medium is taken to reflux for 3 hours followed by bringing to a temperature of -80° C. A solution of 17 ml of methyl 4-(chloroformyl)butyrate is added very slowly over 45 minutes. Agitation is then carried out for 1 hour at -70° C., then the reaction medium is allowed to return very slowly to 18° C. (over 17 hours). The reaction medium is treated by adding 160 ml of a saturated aqueous solution of ammonium chloride. Agitation is carried out for 30 minutes followed by decanting and re-extraction of the aqueous phase with 100 ml of ether. The organic phases are concentrated. The residue is taken up in 200 ml of ether, then washed twice with 100 ml of water followed by drying over magnesium sulphate and concentration with a rotary evaporator. In this way, 20.2 g of an oil corresponding to the expected product is obtained.

reactant | magnesium | 2.82 g | [Mg] | Mg
reactant | 1-bromopropane | 1 ml | BrCCC | C3H7Br
reactant | 1-bromopropane | 9.9 ml | BrCCC | C3H7Br
reactant | methyl 4-(chloroformyl)butyrate | 17 ml | ClC(=O)CCCC(=O)OC | C6H9ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Methyl 5-Oxooctanoate | 20.2 g | O=C(CCCC(=O)OC)CCC | C9H16O3
